US09228150B2
Preparation of Zinc Di-Octadecyldithiocarbamate (FC-577-241)
To a 250 mL round bottomed flask was placed 60 g of dioctadecylamine (a fatty amine derived from a natural oil) and 2.40 g of zinc oxide. Carbon disulfide, 9.0 g, was then added dropwise, and the mixture was stirred for 30 minutes. The flask was then stirred and heated for 2 hours at 70° C., and then stirred for an addition 2 hours at 90° C. A vacuum was then applied to remove water of reaction and the temperature was increased to 130° C., and the reaction was maintained in this state for 3 hours. The pale yellow material was then filtered through Celite at 120° C., to give, upon standing at ambient temperature a waxy solid with a Zn content of 4.2%.

reactant | dioctadecylamine | 60 g | C(CCCCCCCCCCCCCCCCC)NCCCCCCCCCCCCCCCCCC | C36H75N
reactant | zinc oxide | 2.40 g | [O-2].[Zn+2]
reactant | Zn | [Zn] | Zn
reactant | Carbon disulfide | C(=S)=S | CS2
product | Zinc Di-Octadecyldithiocarbamate | C(CCCCCCCCCCCCCCCCC)N(C([S-])=S)CCCCCCCCCCCCCCCCCC.[Zn+2].C(CCCCCCCCCCCCCCCCC)N(C([S-])=S)CCCCCCCCCCCCCCCCCC | InChI=1S/2C37H75NS2.Zn/c2*1-3-5-7-9-11-13-15-17-19-21-23-25-27-29-31-33-35-38(37(39)40)36-34-32-30-28-26-24-22-20-18-16-14-12-10-8-6-4-2;/h2*3-36H2,1-2H3,(H,39,40);/q;;+2/p-2
